US04385058
A solution of 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine (1 g) and 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone (1.23 g) was refluxed in pyridine (6 ml) for 10 hours, concentrated in vacuo and chromatographed on silica gel column eluted with ethyl acetate-ethanol-28% W:W aqueous ammonia (by volume 10:15:2). Recrystallisation from acetonitrile:ether (1:5) gave 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone (1.21 g) m.p. 65°-74° C.

reactant | 2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamine | 1 g | CN(C)CC1=CC(=NC=C1)CSCCN | C11H19N3S
reactant | 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | 1.23 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C11H11N5O4
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(4-dimethylaminomethyl-2-pyridylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | 1.21 g | CN(C)CC1=CC(=NC=C1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C22H28N6O2S
